US08445684B2
4-[2-[1-[5-[(2(S)-Pyrrolidinyl)methoxy]-3-pyridyl]-4-piperidinyl]ethoxy]phenol
Trifluoroacetic acid (1.5 mL) was added slowly to a solution of 3-[4-[2-(4-hydroxyphenoxy)ethyl]-1-piperidinyl]-5-[[1-(tert-butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]pyridine (260 mg) in CH2Cl2/H2O (7.5/0.15 mL) at room temperature under N2. The solution was stirred overnight at room temperature. After removing the solvent, the residue was purified by preparative HPLC (column: SunFire Prep C18, 100×19 mm, 5 μm particle size; UV detection at 254 nm; flow 18 mL/min; mobile phase: A, water with 0.05% CF3COOH; B, CH3CN; 5% to 30% B in A in 6 min). The eluate was partially evaporated under reduced pressure (bath 30° C.) to remove CH3CN. The residue was basified with saturated aqueous NaHCO3 solution and extracted with EtOAc. The combined organic layers were washed with brine and dried over Na2SO4. After concentration in vacuo, the free base (108 mg, 58%) was obtained as a yellowish solid. LC-MS (ESI) m/z 398 (M+H+).

reactant | Trifluoroacetic acid | 1.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3-[4-[2-(4-hydroxyphenoxy)ethyl]-1-piperidinyl]-5-[[1-(tert-butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]pyridine | 260 mg | OC1=CC=C(OCCC2CCN(CC2)C=2C=NC=C(C2)OC[C@H]2N(CCC2)C(=O)OC(C)(C)C)C=C1 | C28H39N3O5
solvent | CH2Cl2 H2O | 0.15 mL | C(Cl)Cl.O
product | 4-[2-[1-[5-[(2(S)-Pyrrolidinyl)methoxy]-3-pyridyl]-4-piperidinyl]ethoxy]phenol | 108 mg, 58% | N1[C@@H](CCC1)COC=1C=C(C=NC1)N1CCC(CC1)CCOC1=CC=C(C=C1)O | C23H31N3O3
